US04134984
A solution of 4-acetamido-2-bromo-5-methylthiazole (2.3 g) and sodium acetate (0.8 g) in methanol (60 ml) was hydrogenated at atmospheric pressure over 10% Pd/C catalyst until the theoretical uptake of hydrogen had occurred. The catalyst was removed by filtration and washed with methanol and the filtrate was evaporated to dryness. The residue was extracted with hot CCl4 and the extracts were evaporated. The residue was recrystallised once from petroleum ether (b.p. 60°-80° C.) and once from hexane to give 4-acetamido-5-methylthiazole (0.2 g) m.p. 62°-4° C. (Found: C, 46.6; H, 5.3; N, 18.1. C6H8N2OS requires C, 46.1; H, 5.2; N, 17.9%).

reactant | 4-acetamido-2-bromo-5-methylthiazole | 2.3 g | C(C)(=O)NC=1N=C(SC1C)Br | C6H7BrN2OS
reactant | sodium acetate | 0.8 g | C(C)(=O)[O-].[Na+]
reactant | hydrogen | [H][H] | H2
solvent | methanol | 60 ml | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 4-acetamido-5-methylthiazole | 0.2 g, 17.9% | C(C)(=O)NC=1N=CSC1C | C6H8N2OS
